US05889032
4-[2-[4-(1-Methylindol-3-ylmethyl)piperazin-1-yl]ethoxy]benzaldehyde
A suspension of 1-(1-methylindole-3-ylmethyl)piperazine (1.3 g) in dimethylsulfoxide (15 ml) and potassium hydroxide (0.63 g) was stirred for 30 min under nitrogen at 22° C. and then a solution of 4-[2-bromoethoxy]benzaldehyde (1.3 g) was added and stirring was continued for further 4 h. The reaction mixture was diluted with water and extracted with ethyl acetate and the organic layer was washed with water, brine, dried (Na2SO4) and solvent was evaporated under reduced pressure. The crude product was chromatographed on silica gel using mixture of methanol: chloroform (1:9) as eluent to afford the pure product (0.76 g, 51%) as an oil.

reactant | 1-(1-methylindole-3-ylmethyl)piperazine | 1.3 g | CN1C=C(C2=CC=CC=C12)CN1CCNCC1 | C14H19N3
reactant | potassium hydroxide | 0.63 g | [OH-].[K+]
reactant | 4-[2-bromoethoxy]benzaldehyde | 1.3 g | BrCCOC1=CC=C(C=O)C=C1 | C9H9BrO2
solvent | dimethylsulfoxide | 15 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-[2-[4-(1-Methylindol-3-ylmethyl)piperazin-1-yl]ethoxy]benzaldehyde | 0.76 g, 51% | CN1C=C(C2=CC=CC=C12)CN1CCN(CC1)CCOC1=CC=C(C=O)C=C1 | C23H27N3O2
